US06946491B2
Step A: Preparation of 4-Hydroxybenzyl bromide:
To a stirred solution of PBr3 (1.38 g, 5.0 mmol) in dry THF (2 ml) at −5° C. was added a solution of dry pyridine (0.201 ml) in dry THF (0.4 ml). A solution of 4-Hydroxybenzyl alcohol (1.89 g, 15.2 mmol) in dry THF (23 ml) was added drop wise to the reaction mixture. The reaction mixture was allowed to stand at room temperature for 18 hours, then diluted with THF and filtered through celite pad. The filtrate was evaporated, the resulting semisolid was redissolved in dry toluene (16 ml). The solution was maintained at −20° C. for 2 hours, and then filtered through celite pad to provide the title compound as a light yellow solution which was used without further purification.

reactant | PBr3 | 5.0 mmol, 1.38 g | P(Br)(Br)Br | Br3P
reactant | pyridine | 0.201 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-Hydroxybenzyl alcohol | 15.2 mmol, 1.89 g | OC1=CC=C(CO)C=C1 | C7H8O2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 0.4 ml | C1CCOC1 | C4H8O
solvent | THF | 23 ml | C1CCOC1 | C4H8O
product | 4-Hydroxybenzyl bromide | OC1=CC=C(CBr)C=C1 | C7H7BrO
